US09382228B2
A solution of (4-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate (0.27 g, 0.655 mmol) in EtOAc (5 mL) was treated with 10% Pd/C (50% wet, 0.070 g, 0.066 mmol) and the mixture was stirred under hydrogen (1 atm) at RT for 24 h. The mixture was filtered through diatomaceous earth and the filter cake was washed with EtOAc. The combined filtrates were evaporated to dryness to give (4-(4-((6-amino-2-methylpyridin-3-yl)oxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate (0.24 g, 96%) as colorless foam. 1H NMR (400 MHz, DMSO-d6): δ 8.67 (s, 1H), 8.45 (d, J=5.7 Hz, 1H), 7.35 (d, J=2.5 Hz, 1H), 7.23 (d, J=8.7 Hz, 1H), 6.86 (dd, J=5.7, 2.6 Hz, 1H), 6.38-6.35 (m, 3H); 5.99 (s, 2H), 2.06 (s, 3H), 1.11 (s, 9H); MS (ESI) m/z: 383.2 (M+H+).

reactant | (4-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate | 0.655 mmol, 0.27 g | C(C(C)(C)C)(=O)OCN1N=NC(=C1)C1=NC=CC(=C1)OC=1C(=NC(=CC1)[N+](=O)[O-])C | C19H20N6O5
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.066 mmol, 0.070 g | [Pd] | Pd
product | (4-(4-((6-amino-2-methylpyridin-3-yl)oxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate | 0.24 g, 96% | C(C(C)(C)C)(=O)OCN1N=NC(=C1)C1=NC=CC(=C1)OC=1C(=NC(=CC1)N)C | C19H22N6O3
